US05496834
In methanol (50 ml) was suspended (2S, 3S)-2-acetoxy-3-[[N-valproyl-(L)-valyl]amino]tetrahydrofuran (0.55 g) followed by addition of concentrated hydrochloric acid (5 drops) and the mixture was stirred at room temperature for 1 hour. The reaction mixture was then concentrated under reduced pressure to obtain (2S,3S)-2-methoxy-3-[[N-valproyl-(L)-valyl]amino]tetrahydrofuran (chemical structure below) (0.38 g, 72%). As recrystallized from ethyl acetate, colorless crystals, m.p. 150°-156° C., optical rotation [α]D+ 18.5° (c=0.50, CHCl3).

reactant | (2S, 3S)-2-acetoxy-3-[[N-valproyl-(L)-valyl]amino]tetrahydrofuran | 0.55 g | C(C)(=O)O[C@@H]1OCC[C@@H]1NC([C@@H](NC(C(CCC)CCC)=O)C(C)C)=O | C19H34N2O5
solvent | methanol | 50 ml | CO | CH4O
catalyst | hydrochloric acid | 5 drops | Cl | ClH
product | (2S,3S)-2-methoxy-3-[[N-valproyl-(L)-valyl]amino]tetrahydrofuran | 0.38 g, 72% | CO[C@H]1OCC[C@@H]1NC([C@@H](NC(C(CCC)CCC)=O)C(C)C)=O | C18H34N2O4
